US08097628B2
(e) Title compound: 5-Methyl-6-(trifluoromethyl)-3-pyridinecarbaldehyde
To a solution of [5-methyl-6-(trifluoromethyl)-3-pyridinyl]methanol (152 mg, 0.795 mmol) in DCM (10 mL) was added CrO2 (Magtrieve) (1336 mg, 15.90 mmol). The suspension was heated at 40° C. in a pressure tube overnight. The suspension was filtered over nylon membrane 0.45 μm and it was rinsed with DCM. The filtrate was evaporated to afford 120 mg (80%) of title compound pure enough to be used in the next step.

reactant | [5-methyl-6-(trifluoromethyl)-3-pyridinyl]methanol | 0.795 mmol, 152 mg | CC=1C=C(C=NC1C(F)(F)F)CO | C8H8F3NO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-6-(trifluoromethyl)-3-pyridinecarbaldehyde | 120 mg, 80% | CC=1C=C(C=NC1C(F)(F)F)C=O | C8H6F3NO
